US08372971B2
Synthesis of (4-chloro-3-trifluoromethyl-phenyl)-{5-[4-(pyridin-3-yloxy)-phenyl]-4H-[1,2,4]triazol-3-yl}-amine trifluoroacetic acid salt
4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol (127.8 mg, 0.36 mmol) was dissolved in 3 mL of anhydrous DMF in a 5 mL microwave vial (Personal Chemistry). Solid potassium bis(trimethylsilyl)amide (144.0 mg, 0.72 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 15 min, then 3-bromopyridine (68.3 mg, 0.432 mmol) was added, followed by anhydrous K2CO3 (50.0 mg, 0.36 mmol). Then the vial was capped and microwaved at 250° C. for 30 min. Then the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. The product was isolated as a TFA salt (15.1 mg).

reactant | 4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol | 0.36 mmol, 127.8 mg | ClC1=C(C=C(C=C1)NC=1NC(=NN1)C1=CC=C(C=C1)O)C(F)(F)F | C15H10ClF3N4O
reactant | potassium bis(trimethylsilyl)amide | 0.72 mmol, 144.0 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-bromopyridine | 0.432 mmol, 68.3 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | K2CO3 | 0.36 mmol, 50.0 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | (4-chloro-3-trifluoromethyl-phenyl)-{5-[4-(pyridin-3-yloxy)-phenyl]-4H-[1,2,4]triazol-3-yl}-amine trifluoroacetic acid salt | 15.1 mg | FC(C(=O)O)(F)F.ClC1=C(C=C(C=C1)NC1=NN=C(N1)C1=CC=C(C=C1)OC=1C=NC=CC1)C(F)(F)F | InChI=1S/C20H13ClF3N5O.C2HF3O2/c21-17-8-5-13(10-16(17)20(22,23)24)26-19-27-18(28-29-19)12-3-6-14(7-4-12)30-15-2-1-9-25-11-15;3-2(4,5)1(6)7/h1-11H,(H2,26,27,28,29);(H,6,7)
